US09216965B2
6-(tert-Butylsulfonyl)-4-chloro-7-(2-methoxyethoxy)quinoline (0.461 g, 1.288 mmol), 4,5-dimethyl-1H-pyrazol-3-amine (0.175 g, 1.546 mmol), and 2 drops of aq HCl (0.161 ml, 0.322 mmol) in EtOH (3.06 ml) were heated at 80° C. overnight. The reaction was cooled to rt and the precipitate was filtered, washed with MeCN, and vacuum-dried to yield 6-(tert-butylsulfonyl)-N-(3,4-dimethyl-1H-pyrazol-5-yl)-7-(2-methoxyethoxy)quinolin-4-amine, hydrochloride (0.290 g, 0.618 mmol, 48.0% yield). m.p. 181-184° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.71 (s, 1H), 11.20 (br. s., 1H), 9.22 (br. s., 1H), 8.48 (d, J=7.07 Hz, 1H), 7.63 (s, 1H), 6.64 (d, J=7.07 Hz, 1H), 4.36 (t, J=4.29 Hz, 2H), 3.78 (t, J=4.29 Hz, 2H), 3.35 (s, 3H), 2.24 (s, 3H), 1.84 (s, 3H), 1.35 (s, 9H). MS: m/z: 433.2 [M+H]+.

reactant | 6-(tert-Butylsulfonyl)-4-chloro-7-(2-methoxyethoxy)quinoline | 1.288 mmol, 0.461 g | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCCOC)Cl | C16H20ClNO4S
reactant | 4,5-dimethyl-1H-pyrazol-3-amine | 1.546 mmol, 0.175 g | CC=1C(=NNC1C)N | C5H9N3
catalyst | HCl | 0.322 mmol, 2 drops | Cl | ClH
solvent | EtOH | 3.06 ml | CCO | C2H6O
product | 6-(tert-butylsulfonyl)-N-(3,4-dimethyl-1H-pyrazol-5-yl)-7-(2-methoxyethoxy)quinolin-4-amine, hydrochloride | 0.618 mmol, 0.290 g, 48.0% yield | Cl.C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCCOC)NC1=C(C(=NN1)C)C | InChI=1S/C21H28N4O4S.ClH/c1-13-14(2)24-25-20(13)23-16-7-8-22-17-12-18(29-10-9-28-6)19(11-15(16)17)30(26,27)21(3,4)5;/h7-8,11-12H,9-10H2,1-6H3,(H2,22,23,24,25);1H
